US06673800B2
Preparation of 1-Benzhydryl-4-{4-[3-(4-fluorophenyl)-4,5-dihydroisoxazol-5-yl]butyl}piperazine
4-[3-(4-Fluorophenyl)-4,5-dihydroisoxazol-5-yl]butanal (27.0 mg, 0.114 mmol), 1-(diphenylmethyl)piperazine (26.3 mg, 0.104 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (66.3 mg, 0.313 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 32.0 mg (65.1%) of the target compound was obtained.

reactant | 4-[3-(4-Fluorophenyl)-4,5-dihydroisoxazol-5-yl]butanal | 0.114 mmol, 27.0 mg | FC1=CC=C(C=C1)C1=NOC(C1)CCCC=O | C13H14FNO2
reactant | 1-(diphenylmethyl)piperazine | 0.104 mmol, 26.3 mg | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | NaBH(OAc)3 | 0.313 mmol, 66.3 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzhydryl-4-{4-[3-(4-fluorophenyl)-4,5-dihydroisoxazol-5-yl]butyl}piperazine | 32.0 mg, 65.1% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCCC1CC(=NO1)C1=CC=C(C=C1)F | C30H34FN3O
